US06172228B2
The reaction was carried out in the same manner as in Preparation Example 3 except for using 11-bromoundecanesulfonyl chloride (2.29g, 6.85 mmol) in place of 6-bromohexanesulfonyl chloride, and cyclopropylamine (860 mg, 15.1 mmol), to give N-cyclopropyl-11-bromoundecanesulfonamide (2.33 g) as colorless crystals.

reactant | 11-bromoundecanesulfonyl chloride | 6.85 mmol, 2.29g | BrCCCCCCCCCCCS(=O)(=O)Cl | C11H22BrClO2S
reactant | cyclopropylamine | 15.1 mmol, 860 mg | C1(CC1)N | C3H7N
product | N-cyclopropyl-11-bromoundecanesulfonamide | 2.33 g | C1(CC1)NS(=O)(=O)CCCCCCCCCCCBr | C14H28BrNO2S
